US06759420B1
2-(S)-{2-(S)-[3-(4-Carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-2-cyclohexyl-acetylamino}-5-guanidino-pentanoic acid hydrochloric acid salt, less polar diastereomer
2-(S)-{2(S)-[3-(4-Carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-2-cyclohexyl-acetylamino}-5-guanidino-pentanoic acid ethyl ester hydrochloric acid salt (6 mg, 8.07 μmol, less polar diastereomer, example 5) was solved in 4 N hydrochloric acid (1 ml) and stirred for 4 hours at room temperature. Water was added and the reaction mixture lyophilized to give 5 mg (quantitative yield) of the desired product. MS m/z: 570.5 ((M+H)+, 1%), 285.9 ((M+2H)2+, 100%).

reactant | 2-(S)-{2(S)-[3-(4-Carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-2-cyclohexyl-acetylamino}-5-guanidino-pentanoic acid ethyl ester hydrochloric acid salt | Cl.C(C)OC([C@H](CCCNC(=N)N)NC([C@H](C1CCCCC1)NC(C(CC1=CC=C(C=C1)C(N)=N)C1CCCCC1)=O)=O)=O
reactant | Water | O | H2O
solvent | hydrochloric acid | 4 N, 1 ml | Cl | ClH
product | 2-(S)-{2-(S)-[3-(4-Carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-2-cyclohexyl-acetylamino}-5-guanidino-pentanoic acid hydrochloric acid salt | 5 mg, quantitative yield | Cl.C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N[C@H](C(=O)N[C@H](C(=O)O)CCCNC(=N)N)C1CCCCC1)C1CCCCC1 | InChI=1S/C30H47N7O4.ClH/c31-26(32)22-15-13-19(14-16-22)18-23(20-8-3-1-4-9-20)27(38)37-25(21-10-5-2-6-11-21)28(39)36-24(29(40)41)12-7-17-35-30(33)34;/h13-16,20-21,23-25H,1-12,17-18H2,(H3,31,32)(H,36,39)(H,37,38)(H,40,41)(H4,33,34,35);1H/t23?,24-,25-;/m0./s1
